US06359134B1
2-(6-tert-Butoxycarbonylamino-3-pyridyl)-4-methyl-5-thiazolecarboxylic acid
A mixture of ethyl 2-(2-tert-butoxycarbonylamino-5-pyridyl)-4-methyl-5-thiazolecarboxylate (180 mg), 1N NaOH (2 ml) and EtOH-THF (2:1, 6 ml) was stirred at 70° C. for 1 hour, to which was added 1 N HCl (2 ml) to give the title compound (151 mg).

reactant | ethyl 2-(2-tert-butoxycarbonylamino-5-pyridyl)-4-methyl-5-thiazolecarboxylate | 180 mg | C(C)(C)(C)OC(=O)NC1=NC=C(C=C1)C=1SC(=C(N1)C)C(=O)OCC | C17H21N3O4S
reactant | NaOH | 1N, 2 ml | [OH-].[Na+]
reactant | HCl | 1 N, 2 ml | Cl | ClH
solvent | EtOH THF | 6 ml | CCO.C1CCOC1
product | 2-(6-tert-Butoxycarbonylamino-3-pyridyl)-4-methyl-5-thiazolecarboxylic acid | 151 mg | C(C)(C)(C)OC(=O)NC1=CC=C(C=N1)C=1SC(=C(N1)C)C(=O)O | C15H17N3O4S
